US06844357B2
6-[Amino-(4-chloro-phenyl)-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-4-(5-methyl-thiophen-2-yl)-1H-quinolin-2-one
To a solution of 6-[(4-chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-4-(5-methyl-thiophen-2-yl)-1H-quinolin-2-one (63 mg, 0.132 mmol) in toluene (1 ml) was added thionyl chloride (SOCl2, 0.097 ml, 1.32 mmol). The reaction mixture was heated to reflux for 2 hours. Thiony chloride was removed under reduced pressure. The crude chloride was taken up in toluene and concentrated under vacuum. The resulting solid was dissolved in THF (5 mL) and to this solution was bubbled ammonia gas (NH3) for 10 minutes at −78° C. The excess NH3 was removed via bubble N2 at −30° C. After removal of THF, the product mixture was partitioned between ethyl acetate and 10% aqueous potassium carbonate. The organic layer was washed, dried over MgSO4 and concentrated under vacuum to give the crude product. It was chromatographed on silica gel with CHCl3 then MeOH—CHCl3—NH4OH (1:99:0.1) as eluents to afford the titled compound as an off-white solid (31 mg, 0.065 mmol, 49% yield).

reactant | 6-[(4-chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-4-(5-methyl-thiophen-2-yl)-1H-quinolin-2-one | 0.132 mmol, 63 mg | ClC1=CC=C(C=C1)C(C=1C=C2C(=CC(N(C2=CC1)C)=O)C=1SC(=CC1)C)(C=1N(C=NC1)C)O | C26H22ClN3O2S
reactant | thionyl chloride | 1.32 mmol, 0.097 ml | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH CHCl3 NH4OH | CO.C(Cl)(Cl)Cl.[NH4+].[OH-]
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 6-[Amino-(4-chloro-phenyl)-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-4-(5-methyl-thiophen-2-yl)-1H-quinolin-2-one | 0.065 mmol, 31 mg, 49% yield | NC(C=1C=C2C(=CC(N(C2=CC1)C)=O)C=1SC(=CC1)C)(C=1N(C=NC1)C)C1=CC=C(C=C1)Cl | C26H23ClN4OS
